US04075234
17.4 Grams (0.1 mole) of dimethyl adipate are dissolved in 100 mls. of acetonitrile and heated to 70° C. 8.2 Grams (0.2 mole) of sodium hydroxide dissolved in 6.0 g. of water are added to the reaction mixture. The reaction mixture is stirred at reflux temperature for 18 hours. The resulting solution is filtered hot and the solids are air dried to yield disodium adipate as the reaction product.

reactant | dimethyl adipate | 0.1 mole | C(CCCCC(=O)OC)(=O)OC | C8H14O4
reactant | acetonitrile | C(C)#N | C2H3N
reactant | sodium hydroxide | 0.2 mole | [OH-].[Na+]
solvent | water | O | H2O
product | disodium adipate | C(CCCCC(=O)[O-])(=O)[O-].[Na+].[Na+] | InChI=1S/C6H10O4.2Na/c7-5(8)3-1-2-4-6(9)10;;/h1-4H2,(H,7,8)(H,9,10);;/q;2*+1/p-2
